US05756528
Step B: Preparation of 2-[1-(Naphth-2-ylmethyl)-1H-imidazol-5-yl]acetic acid hydrochloride
2-[1-(Naphth-2-ylmethyl)-1H-imidazol-5-yl]acetic acid methyl ester (0.92 g, 3.28 mmol ) was dissolved in 2.5M hydrochloric acid (50 ml) and heated at 55° C. for 3 h. After this time, the solution was evaporated in vacuo to give the title compound as a white solid.

reactant | 2-[1-(Naphth-2-ylmethyl)-1H-imidazol-5-yl]acetic acid methyl ester | 3.28 mmol, 0.92 g | COC(CC1=CN=CN1CC1=CC2=CC=CC=C2C=C1)=O | C17H16N2O2
reactant | hydrochloric acid | 2.5M, 50 ml | Cl | ClH
product | 2-[1-(Naphth-2-ylmethyl)-1H-imidazol-5-yl]acetic acid hydrochloride | Cl.C1=C(C=CC2=CC=CC=C12)CN1C=NC=C1CC(=O)O | InChI=1S/C16H14N2O2.ClH/c19-16(20)8-15-9-17-11-18(15)10-12-5-6-13-3-1-2-4-14(13)7-12;/h1-7,9,11H,8,10H2,(H,19,20);1H
